US07393852B2
A. Preparation of tert-butyl (1R)-6-(2-(hydroxymethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate
To a 150 mL sealed tube was added (R)-5-(tert-butoxycarbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (1.0 g, 3.38 mmol) followed by (2-hydroxymethylphenyl)boronic acid (677.0 mg, 5.05 mmol), Pd(PPh3)4 (292.0 mg, 0.253 mmol), EtOH (5 mL), NaHCO3 (1M, 5 mL) and toluene (20 mL). The resulting mixture was capped and heated at 80° C. for 20 h. The solution mixture was partitioned between EtOAc and H2O. The organic layer was washed with brine, dried over MgSO4, and removed solvent. The residue was purified by chromatography on silica gel. Elution with Hex:EtOAc mixture (80:20) gave title compound. MS m/z: 354.3 (M+H). Calc'd. for C22H27NO3-353.47. B. Preparation of 2-((5R)-5-(tert-butoxycarbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl)benzoic acid. To a 100 mL round bottom flask was added (tert-butyl (1R)-6-(2-(hydroxymethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate (200.0 mg, 0.565 mmol) followed by CCl4 (2 mL), MeCN (2 mL), H2O (3 mL), NaIO4 (363.0 mg, 1.70 mmol), and RuCl3 (hydrate, 6 mg, 0.0289 mmol) The resulting mixture was capped and stirred at rt for 2 h. The solution mixture was partitioned between EtOAc and H2O. The organic layer was separated from the RuCl3 by passing through the celite. The organic layer was dried over MgSO4 and removed solvent. The residue was purified by chromatography on silica gel. Elution with CH2Cl2:MeOH mixture (95:5) gave title compound. MS m/z: 368.4 (M+H). Calc'd. for C22H25NO4-367.45. C. Preparation of tert-butyl (1R)-6-(2-(chlorocarbonyl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate To a 100 mL round bottom flask was added 2-((5R)-5-(tert-butoxycarbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl)benzoic acid (270.0 mg, 0.735 mmol) followed by CH2Cl2 (15 mL), oxalyl chloride (0.7 mL, 1.5 mmol), and DMF (2 drops). The resulting mixture was stirred at rt for 3 h. The solution mixture was evaporated all solvent off to dryness to give title compound. MS m/z: 386.4 (M+H). Calc'd. for C22H24ClNO3-385.89. D. Preparation of tert-butyl (1R)-6-(2-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate To a 100 mL round bottom flask was added tert-butyl (1R)-6-(2-(chlorocarbonyl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate (150.0 mg, 0.388 mmol) followed by dry CH2Cl2 (15 mL), NEt3 (0.11 mL, 1.3 mmol), and acetamide (86 mg, 1.17 mmol). The resulting mixture was stirred at rt for 20 h. Removed solvent to dryness. Added toluene (15 mL) and heated at 115° C. for 20 h. Solvent was removed. The residue was purified by chromatography on silica gel. Elution with CH2Cl2:MeOH mixture (95:5) gave title compound (75 mg, 48%). MS m/z: 406.2 (M+H). Calc'd. for C24H27N3O3-405.3. E. (1R)-6-(2-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-amine. To a solution of the product of step D (75 mg, 0.184 mmol) in anhydrous ethyl acetate (100 mL) was added 20 mL of 4 N HCl in dioxane the resulting mixture was stirred at RT for 3 h then evaporated to afford the title compound as a colorless glass.

reactant | tert-butyl (1R)-6-(2-(chlorocarbonyl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate | ClC(=O)C1=C(C=CC=C1)C=1C=C2CCC[C@H](C2=CC1)NC(OC(C)(C)C)=O | C22H24ClNO3
reactant | 2-((5R)-5-(tert-butoxycarbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl)benzoic acid | 0.735 mmol, 270.0 mg | C(C)(C)(C)OC(=O)[C@H]1C=2C=CC(=CC2CCC1)C1=C(C(=O)O)C=CC=C1 | C22H24O4
reactant | oxalyl chloride | 1.5 mmol, 0.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (1R)-6-(2-(hydroxymethyl)phenyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate | OCC1=C(C=CC=C1)C=1C=C2CCC[C@H](C2=CC1)NC(OC(C)(C)C)=O | C22H27NO3
